US07037908B2
N-(4-chlorobenzyl)-2-(2,6-difluorophenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxamide.
Prepared according to the procedure described for example 2 from 2-(2,6-difluoro-phenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester (31 mg, 0.1 mmol) and 4-chlorobenzylamine (71 mg, 0.5 mmol). The title product was obtained as an off-white solid (32.3 mg, 80% yield). 1HNMR (500 MHz, CDCl3) δ: 12.25 (1H, s), 7.80 (1H, br s), 7.52–7.46 (1H, m), 7.81 (2H, d, J=8.55 Hz), 7.25 (2H, d, J=8.24 Hz), 7.05 (2H, dd, J=8.54, 7.32 Hz), 4.55 (2H, d, J=6.10 Hz), 3.41 (3H, s). HRMS (ESI) calcd for C19H15ClF2N3O3 (M+H): 406.0770; found: 406.0775.

reactant | 2-(2,6-difluoro-phenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester | 0.1 mmol, 31 mg | C(C)OC(=O)C=1N=C(N(C(C1O)=O)C)C1=C(C=CC=C1F)F | C14H12F2N2O4
reactant | 4-chlorobenzylamine | 0.5 mmol, 71 mg | ClC1=CC=C(CN)C=C1 | C7H8ClN
product | N-(4-chlorobenzyl)-2-(2,6-difluorophenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxamide | ClC1=CC=C(CNC(=O)C=2N=C(N(C(C2O)=O)C)C2=C(C=CC=C2F)F)C=C1 | C19H14ClF2N3O3
